US07279478B2
Synthesis of (2S)-N-(cyanomethyl)-4-methyl-2-{[(S)-(4′-piperazin-1-yl-1,1′-biphenyl-4-yl)(thien-2-yl)methyl]oxy}pentanamide
To a solution of (2S)-2-{[(S)-(4-bromophenyl)(thien-2-yl)methyl]oxy}-N-(cyanomethyl)-4-methylpentanamide, from example 20, step 3 (113 mg, 0.27 mmol) in DMF (3 mL) was added 4-piperazin-1-ylphenylboronic acid (73 mg, 0.30 mmol), and a 2.0M aqueous solution of Na2CO3 (0.54 mL, 1.08 mmol). The mixture was placed under vacuum and purged with nitrogen 3 times before the PdCl2(dppf)2 was added (10 mg, 0.014 mmol). The reaction mixture was purged 3 other times with nitrogen and the reaction was heated to 85° C. for 16 hours. The mixture was then diluted with dichloromethane and filtered over celite. The organic layer was isolated and washed with a saturated solution of NaHCO3 and brine, dried and evaporated. The crude residue was chromatographed on silica gel using 1% NH4OH and 9% methanol in dichloromethane to afford the title compound.

reactant | (2S)-2-{[(S)-(4-bromophenyl)(thien-2-yl)methyl]oxy}-N-(cyanomethyl)-4-methylpentanamide | BrC1=CC=C(C=C1)[C@H](O[C@H](C(=O)NCC#N)CC(C)C)C=1SC=CC1 | C19H21BrN2O2S
reactant | 4-piperazin-1-ylphenylboronic acid | 0.30 mmol, 73 mg | N1(CCNCC1)C1=CC=C(C=C1)B(O)O | C10H15BN2O2
reactant | Na2CO3 | 1.08 mmol, 0.54 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (2S)-N-(cyanomethyl)-4-methyl-2-{[(S)-(4′-piperazin-1-yl-1,1′-biphenyl-4-yl)(thien-2-yl)methyl]oxy}pentanamide | C(#N)CNC([C@H](CC(C)C)O[C@H](C=1SC=CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)N1CCNCC1)=O | C29H34N4O2S
